US08703759B2
2-((5-methyloxazol-2-yl)methyl)-6-(4-(trifluoromethyl)phenyl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one (compound 172)
N-(2-Hydroxypropyl)-2-(3-oxo-6-(4-(trifluoromethyl)phenyl)-[1,2,4]triazolo[4,3-a]pyridin-2 (3H)-yl)acetamide (30.0 mg, 0.0761 mmol) was treated with Dess-Martin periodinane (64.6 mg, 0.1522 mmol, 2.0 equiv.) in THF (2 mL) at room temperature in a 50 mL round bottomed flask. After stirring for 1 h, water (30 mL) was added and the whole was extracted with EtOAc (30 mL×3). Combined organic layers were washed with sat. Na2S2O3 aq. solution (30 mL), sat. NaHCO3 aq. solution (30 mL) and brine (30 mL) successively. The organic layer was dried over Na2SO4. The solvent was removed under a reduced pressure to give the desired product as colorless crystals (2-(3-oxo-6-(4-(trifluoromethyl)phenyl)-[1,2,4]triazolo[4,3-a]pyridin-2 (3H)-yl)-N-(2-oxopropyl)acetamide, 30.3 mg, 0.077 mmol, >99%). LCMS (EI: 70 eV) 415 (M++Na), 393 (M++1).

reactant | N-(2-Hydroxypropyl)-2-(3-oxo-6-(4-(trifluoromethyl)phenyl)-[1,2,4]triazolo[4,3-a]pyridin-2 (3H)-yl)acetamide | 0.0761 mmol, 30.0 mg | OC(CNC(CN1N=C2N(C=C(C=C2)C2=CC=C(C=C2)C(F)(F)F)C1=O)=O)C | C18H17F3N4O3
reactant | Dess-Martin periodinane | 0.1522 mmol, 64.6 mg, 2.0 equiv. | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | water | 30 mL | O | H2O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 2-((5-methyloxazol-2-yl)methyl)-6-(4-(trifluoromethyl)phenyl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one | 0.077 mmol, 30.3 mg, >99% | CC1=CN=C(O1)CN1N=C2N(C=C(C=C2)C2=CC=C(C=C2)C(F)(F)F)C1=O | C18H13F3N4O2
